Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro / erythromycin base / meclizine / Penicillins / amlodipine
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
None (during hospitalization at ___
 
History of Present Illness:
Ms. ___ is a ___ with history of ulcerative colitis, 
rheumatoid arthritis, and psoriasis on infliximab and 
methotrexate as well as sick sinus syndrome with atrial 
fibrillation s/p PPM who presents upon transfer from ___ 
___ ICU given concern for TTP.

The patient has had a prolonged course at ___ 
prior to transfer. Ms. ___ was initially admitted on 
___ complaining of fatigue and acute kidney injury with 
creatinine of 1.9. The patient recieved IVF, though developed an 
oxygen requirement and fevers. She was treated with vancomycin, 
ceftazidime, and azithromycin for a multifocal pneumonia with 
steroids given concern for an autoimmune process. Given her 
worsening respiratory status, she was transferred to the OSH ICU 
on ___. She was treated for PCP pneumonia given an elevated LDH 
to 1000, though this was stopped on ___ as her bronch was 
negative for PCP. There was ___ on her BAL and a urine 
culture, thus she was started on fluconazole instead. The 
patient ultimately underwent VATS on ___ which showed edema 
versus pulmonary fibrosis, though pathology later returned with 
"foamy histiocytes and foamy eosinophilic exudates with negative 
silver stain." Due to concern for PCP, she was restarted back on 
high-dose TMP-SMX on ___. She developed worsening respiratory 
status and was intubated on ___. A pulmonary artery catheter was 
not consistent with cardiogenic shock. Given ongoing respiratory 
failure, the patient underwent tracheostomy on ___, though this 
was soon displaced and the patient was reintubated. Trach was 
replaced several days later. Sputum cultures returned on ___ 
with pseudomonas, thus she was started on inhaled tobramycin. 
She also had several intermittent episodes of atrial 
fibrillation with RVR requiring amiodarone and digoxin and 
cardioversion. After starting on the dilt drip, she required 
phenylephrine to maintain her BP. Furosemide was used for volume 
overload, but due to lack of response she was initiated on HD on 
___. Her course was further complicated by pneumothorax after 
subclavian line placement on ___ and after reintubation after 
tracheostomy dislodged, eventually requiring bilateral chest 
tubes.

On ___, the patient's platelets fell to 60k and fibrinogen was 
found to be 85, thus the patient was given cryoprecipitate and 
PRBCs for presumed DIC. This lasted several days, then 
normalized. Given persistent anemia requiring transfusion 
support, Hematology was consulted who could not rule out TTP in 
setting of elevated LDH and few schistocytes on smear. Bloody 
output and melena were noted thus patient was started on a PPI 
gtt. Prior to transfer, she received a total of 18 units PRBCs, 
4 units FFPc, 1 cryo, 1 platelets.

Finally, prior to transfer, the patient had worsening mental 
status, thus she underwent CT head which showed findings of old 
subacute infarcts. During her admission, she also had a CT torso 
which demonstrated residual left pneumothorax, pneumonia, and 
concern for cholecystitis.
  
On arrival to the FICU, she was intubated and not responding to 
commands. 

 
Past Medical History:
-Ulcerative colitis
-Rheumatoid arthritis
-Psoriasis
-Sick sinus syndrome s/p pacemaker on warfarin
-Venous insufficiency
-Hypertension
-Hyperlipidemia
 

 
Social History:
___
Family History:
unknown.

 
Physical Exam:
ADMISSION
Vitals: 98.4 74 141/61 20 97% on 100% FiO2 
GENERAL: Intubated, not following commands 
HEENT: Serous drainage from left eye. Bloody drainage for NG 
tube, but clear on lavage 
LUNGS: Coarse breath sounds b/l  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, unable to assess for tenderness given non-responsive 
but no guarding or rigidity
EXT: Warm, well perfused, grossly anasarcic with pitting edema 
throughout b/l upper and lower extremities and abdomen 
SKIN: diffuse ecchymoses and oozing throughout torso
NEURO: not following commands 

DISCHARGE:
General: No visible breathing
CV: No heart sounds
Lungs: No breath sounds
Neuro: No pupillary reflex
 
Pertinent Results:
ADMISSION:
============
___ 12:59PM BLOOD WBC-23.7* RBC-3.73* Hgb-11.3* Hct-31.0* 
MCV-83 MCH-30.2 MCHC-36.3* RDW-15.5 Plt Ct-48*
___ 12:59PM BLOOD Neuts-96* Bands-0 Lymphs-1* Monos-2 Eos-0 
Baso-0 ___ Metas-1* Myelos-0 NRBC-7*
___ 12:59PM BLOOD ___ PTT-34.3 ___
___ 12:59PM BLOOD Plt Smr-VERY LOW Plt Ct-48*
___ 12:59PM BLOOD ___
___ 12:59PM BLOOD FDP-40-80*
___ 05:46PM BLOOD Ret Aut-1.3
___ 09:05PM BLOOD Fact V-43* FacVIII-269*
___ 12:59PM BLOOD Glucose-270* UreaN-168* Creat-3.0* Na-143 
K-4.3 Cl-95* HCO3-27 AnGap-25*
___ 12:59PM BLOOD ALT-305* AST-622* ___ 
AlkPhos-398* TotBili-12.7* DirBili-9.0* IndBili-3.7
___:59PM BLOOD Albumin-3.2* Calcium-9.0 Phos-7.4* Mg-2.0 
Iron-130
___ 12:59PM BLOOD calTIBC-114 Hapto-<5* ___ 
TRF-88*
___ 09:05PM BLOOD ___
___ 02:26AM BLOOD Triglyc-479*
___ 01:01PM BLOOD Type-ART pO2-78* pCO2-51* pH-7.36 
calTCO2-30 Base XS-1
___ 01:13PM BLOOD Type-MIX pO2-45* pCO2-55* pH-7.33* 
calTCO2-30 Base XS-0
___ 01:01PM BLOOD Lactate-4.3*
___ 01:13PM BLOOD Lactate-4.3*
___ 01:13PM BLOOD O2 Sat-75
___ 09:12PM BLOOD freeCa-0.99*

IMAGING/STUDIES:
==================
___ RUQ U/S:
Extremely limited exam, which is nondiagnostic.  Gallbladder is 
not 
visualized. 

___ CXR:
Into beading tube is 5.7 cm above the carinal.  Right PICC line 
tip is at the level of cavoatrial junction. Most likely hema 
dialysis catheter is deep in the right atrium. NG tube tip is in 
the stomach. Left chest tube is in place. 
  
There is extensive involvement of the lungs by a widespread 
consolidations. There is also substantial amount would of what 
appears to be air within the soft tissues in both left and right 
hemothorax. It can potentially be originating from the left lung 
with a adjacent air within the left breast tissue. 
  
No substantial pleural effusion is seen. Upper mediastinal might 
be 
potentially dilated. Father assessment with chest CT is required 


___ TTE:
Very poor image quality. The left ventricle is not well seen. RV 
with normal free wall contractility. Tricuspid regurgitation is 
present but cannot be quantified. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion.  


___ CXR: 
Severe pulmonary edema has worsened.  Heart size top-normal.  A 
pocket of 
subcutaneous emphysema in the left chest wall is presumably 
related to the indwelling left apical pleural thoracostomy tube. 
 Left pneumothorax is still very small. 
  
Lung tracheostomy midline.  Right PIC or subclavian line ends in 
the low SVC.  Transvenous right atrial right ventricular pacer 
leads in standard placements. Esophageal drainage tube passes 
into the stomach and out of view. 

DISCHARGE LABS:
===============
deceased

 
Brief Hospital Course:
Ms. ___ was a ___ with ulcerative colitis and psoriatic 
arthritis on infliximab and methotrexate at home, sick sinus 
syndrome, and hypertension who presented upon transfer from 
___ ICU for ongoing anemia and coagulopathy 
concerning with course complicated by respiratory failure, 
pneumonia, atrial fibrillation with RVR, and renal failure.

# Hypoxemic respiratory failure / goals of care: patient 
developed respiratory failure one month ago after receiving IV 
fluids for acute kidney injury. Initially managed with bipap, 
though later required intubation. Underwent tracheostomy which 
was soon dislodged, then replaced. Course complicated by 
bilateral pneumothorax from subclavian line placement and 
intubation. Likely multifactorial secondary to pneumonia, and 
volume overload. ___ also have parenchymal disease, ARDS, 
transfusion reactions (TRALI vs. TACO), and pulmonary hemorrhage 
in the setting of coagulopathy. Did not tolerate AC ventilation, 
require AVRP. Unable to wean ventillation with increased pressor 
requirement. Given severity of respiratory distress, 
coagulopathy and continued hypotension requiring increased 
pressors all leading to multiple organ failure, goals of care 
discussion initiated with family including niece/healthcare 
proxy with aide of social work. Decision made to extubate 
patient, after which she passed away at 1401 on ___. Family 
requested autopsy, which is pending at time of dc summary.

# Anemia, thrombocytopenia, coagulopathy: developed progressive 
anemia requiring significant transfusion support with concurrent 
thrombocytopenia. Hematology evaluated patient here and could 
not rule out TTP, but felt that likelihood was low given very 
few schistocytes on smear. She does have altered mental status 
and ___, but has alternative explanations for both. Normal PTT 
is inconsistent with DIC. Elevated ___ may have been secondary to 
combination of nutritional deficiencies and liver failure. 
Evidence of hemolysis with haptoglobin <5. Part of her elevation 
in bilirubin and LD is likely due to liver failure, particularly 
given that most of her hyperbilirubinemia is direct. Given her 
multiple autoimmune conditions, risk of antiphospholipid 
syndrome. She also has ongoing acute blood loss contributing to 
her anemia. Thrombocytopenia may also be secondary to sepsis or 
liver failure with splenic sequestration. Hemolysis labs are 
somewhat difficult to interpret in the setting of likely liver 
failure and multiple transfusions. Heme consulted, suggested 
potential for HLH. A number of serologies were ordered and 
pending to evaluate her coagulopathy at the time in which her 
family decided to extubate the patient per above.

# GI bleeding: likely contributing to anemia, as above. Patient 
noted to have bloody OG output and melena. No clear etiology. 
Given prolonged ICU course, may have been related to stress 
ulceration. ___ have even very superficial ulceration causing 
bleeding in the setting of coagulopathy. Bloody discharge from 
NG tube but clear on lavage, suggesting no active large scale 
bleed on admission. GI consulted, recommended IV PPI but given 
instability, deferred initial endoscopic evaluation. Supported 
with transfusions per above.
 
# Hypotension: Thought to be related to sepsis / potentially 
iatrogenic. Patient presenting with hypotension requiring 
phenylephrine in the setting of diltiazem administration. Other 
possible etiologies include sepsis given concern for pneumonia 
and possible cholecystitis or other distributive shock given 
inflammatory state, hypovolemic/hemorrhagic shock in setting on 
ongoing bleeding, or cardiogenic in setting of atrial 
fibrillation. Required greater vasopressor requirement involving 
norepinephrine and vasopressin as hospital course progressed. 
Goals of care discussed per above. 

# Hepatitis: significant transaminitis with conjugated 
hyperbilirubinemia. Likely shock liver. Had some evidence of 
failure given elevated INR and low albumin.
 
# Pneumonia: patient with concern for clinical and radiographic 
evidence of pneumonia. Sputums later grew Pseudomonas with 
sensitivities revealing resistance to most antibiotics except 
ceftazidime and zosyn. Patient transferred on inhaled vancomcyin 
and tobramycin, high dose TMP-SMX, ceftazadime, metronidazole as 
well as high dose steroids. Covered empirically with vancomycin, 
cefepime, flagyl, and bactrim for PCP coverage through 
admission.
 
# Cholecystitis: patient found to have CT imaging concerning for 
cholecysitis. Possibly acalculous in setting of prolonged 
critical illness. Patient has WBC 23.7. RUQ was limited. ___ 
consulted, would be possible to perform CT-guided drainage but 
given instability, coagulopathy unable to be performed.

# Acute kidney injury: patient with elevated creatinine over 
course of hospital stay attributed to diuresis, possible sepsis 
with hypotension. Recently initiated on hemodialysis for volume 
overload as patient was not responding to furosemide gtt. Given 
the complicated hospital course with likely administration of 
nephrotoxic medications, possible hypotension, etiology is 
likely multifactorial and unclear at this time. Nephrology 
consulted, initiated CVVH. Pt did not tolerate well, with 
increasing pressure requirement to maintain blood pressure. 
Further treatment deferred per goals of care above. 

# Atrial fibrillation: patient with history of sick sinus 
syndrome with prior pacemaker placement. On warfarin for 
anticoagulation as outpatient. Hospital course complicated by 
atrial fibrillation with rapid ventricular response, now s/p 
amiodarone and digoxin loading. Used diltiazem gtt as needed for 
rate control during admission.
 
# Malnutrition: patient started on TPN prior to transfer. 
Underwent PEG placement at time of tracheostomy, though tube 
feeds initially held given high residuals and concern for GI 
bleed. 
 
# Diabetes mellitus: found to have A1c 9% on admission which was 
newly discovered. Maintained on HISS. 

# Ulcerative colitis, rheumatoid arthritis:
Held infliximab and methotrexate given acute processes.

# Pulmonary nodules: incidentally identified 2-3mm nodules in 
the RLL found on CT chest. Planned for outpatient follow-up.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 40 mg PO QPM 
2. Propafenone HCl 150 mg PO TID 
3. Furosemide 80 mg PO BID 
4. Vitamin D ___ UNIT PO 1X/WEEK (___) 
5. ClonazePAM 0.5 mg PO QHS 
6. Leucovorin Calcium 5 mg PO DAILY 
7. Mesalamine 1600 mg PO TID 
8. Metolazone 2.5 mg PO EVERY OTHER DAY 
9. Potassium Chloride 40 mEq PO DAILY 
10. Ezetimibe 10 mg PO DAILY 
11. Losartan Potassium 25 mg PO DAILY 
12. Metoprolol Succinate XL 100 mg PO DAILY 
13. Gabapentin 600 mg PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Spironolactone 25 mg PO DAILY 
16. Hydrochlorothiazide 25 mg PO DAILY 
17. Warfarin Dose is Unknown  PO DAILY16 
18. Loratadine 10 mg PO DAILY 
19. PredniSONE 40 mg PO DAILY 

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___